US04120690
A three-liter reaction flask fitted with a power stirrer, heating mantle, dropping funnel, thermometer and water-cooled condenser was charged with 449 g (4.4 moles) of pivalic acid and 1500 ml of dioxane. To the stirred solution there was added 364 g (4.0 moles) of thiosemicarbazide. The dropping funnel was charged with 765 g (5.0 moles) of phosphorus oxychloride which was added to the well stirred solution in the reaction vessel. The reaction mixture was stirred and heated at 95°-100°. When the evolution of hydrogen chloride was complete, the mixture was cooled and the liquid phase was removed by decantation. Sufficient hot water was added to dissolve the pot residue. With ice-bath cooling and agitation, there was slowly added 450 ml of 50% aqueous sodium hydroxide. The mixture was cooled to 20° and the product was collected on a vacuum filter. The filter cake was washed with water and dried. There was obtained 404 g (64.2%) of 2-amino-5-tert-butyl-1,3,4-thiadiazole, m.p. 187°-88°.

reactant | pivalic acid | 4.4 moles, 449 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | thiosemicarbazide | 4.0 moles, 364 g | NNC(=S)N | CH5N3S
reactant | phosphorus oxychloride | 5.0 moles, 765 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 1500 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-amino-5-tert-butyl-1,3,4-thiadiazole | 404 g, 64.2% | NC=1SC(=NN1)C(C)(C)C | C6H11N3S
